US07271406B2
Following the general procedure for making arylboronic esters as described by Ishiyama, Murata, and Miyaura in J. Org. Chem. 1995, 60, 7508-7510, 4-bromophenyl-9H-carbazole (1.089 g, 3.3 mmoles), bis(pinacolato)diboron (0.922 g, 3.6 mmoles), potassium acetate (1.062 g, 11.0 mmoles), and [1,1′-bis(diphenylphosphino)-ferrocene]dichloropalladium (II) (complexed 1:1 with dichlormethane—Aldrich, 0.089 g, 0.1 mmoles) were mixed in 20 mL of DMSO. The solution was purged with nitrogen and heated under nitrogen at 80° C. for 18 hrs. After cooling, the reaction mixture was poured onto ice water, the aqueous layer extracted three times with methylene chloride, the combined organic fractions washed with brine, dried over magnesium sulfate, filtered through a thin silica bed, and rotoevaporated to yield 1.02 g of 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-phenyl-9H-carbazole (84% yield).

reactant | 4-bromophenyl-9H-carbazole | 3.3 mmoles, 1.089 g | BrC1=CC=C(C=C1)C1=CC=CC=2C3=CC=CC=C3NC12 | C18H12BrN
reactant | bis(pinacolato)diboron | 3.6 mmoles, 0.922 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 11.0 mmoles, 1.062 g | C(C)(=O)[O-].[K+]
solvent | DMSO | 20 mL | CS(=O)C | C2H6OS
catalyst | [1,1′-bis(diphenylphosphino)-ferrocene]dichloropalladium (II) | 0.1 mmoles, 0.089 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-phenyl-9H-carbazole | 1.02 g, 84% yield | CC1(OB(OC1(C)C)C1=CC=C(C=C1)C1=CC=CC=2C3=CC=CC=C3NC12)C | C24H24BNO2
